Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lidocaine / Sulfa (Sulfonamide Antibiotics) / lisinopril
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with history of APLS on
warfarin, CVA and BPH with chronic indwelling foley and 
recurrent
UTI presents with fall.
The patient tells me that he was going to make himself something
to eat (notes also say going to the bathroom) and then fell on
the floor. He did not lose consciousness. He was unable to get
himself up and lay on the ground for ___. He landed on his
left side. Did not hit his head. Denies feeling dizzy or
lightheaded prior to falling. He has a history of falls and 
walks
with a walker at baseline.

Reports he was feeling well during the day. He has been reading 
a
novel and was doing well. While on the ground, he noted sweats
and fevers. He also had a episode of loose stool. Reports he has
been having loose stools for the past year. He denies chest pain
or shortness of breath. Denies new cough. Denies nausea or
vomiting.  He does report bladder pain, rectal pain and scrotal
pain which is not new.

In terms of his urinary retention, the patient has a chronic
indwelling Foley catheter which was last changed ___. Urine
culture at that time was positive for S. Aureus. It seems that
the patient was not treated. He is currently being evaluated for
SPT. 

In the ED, the patient was found to have an elevated lactate,
elevated WBC count and positive U/A he was given Vancomycin and
Cefepime and admitted to the floor.

On arrival, the patient reports he feels ok. He continues to
complain of suprapubic and rectal pain. He denies fevers or
chills currently. Denies CP or shortness of breath. When
examining the patient, he felt very uncomfortable when sitting 
up
and had transient muscle shaking and wheezing which lasted less
than 30 seconds and self resolved. He reports this has been
happening.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative
 
Past Medical History:
-Antiphospholipid syndrome on warfarin
-BPH
-Mild emphysema
-Cerebrovascular disease (multiple strokes)
-Repeated falls
-Chronic low back pain
-L4-5 spine fusion in ___
-Status post cholecystectomy

 
Social History:
___
Family History:
- Father passed from ___ at age ___
- no known history of cancers.
 
Physical Exam:
Temp: (Tm 98.8), BP: 167/90 (137-168/69-90), HR: 65 (59-65), RR:
18 (___), O2 sat: 93% (93-97), O2 delivery: Ra 

Gen: Alert. NAD
HEENT: PERRL
Neck: No JVD
CV: RRR, no m/g/r
Resp: CTA-B - upper airway noise
Abd: Soft, NT. Some suprapubic tenderness
GU: Rectal visualilzation without skin breakdown, slight 
redness,
did not visualize any hemorrhoids external from the anus. 
Ext: ___ strength throughout
Neuro: Non focal
Psych: Appropriate

 
Pertinent Results:
Admission --> Discharge

WBC: 18.7 --> 8.8
Hgb: 14 --> 12.3
Plts: 187 --> 167

INR: 2.0

Creatinine: 1.7 --> 0.9

CK (Admission) 933

Vanc Level: 13.6 (after 2nd dose) 

CT Abd/Pelvis:
IMPRESSION:   
1. Transitional vertebra at the thoracolumbar junction, labeled 
T12 for the purposes of this report.  Partial sacralization of 
L5. 
2. Fusion of L4 through S1 anterior and posterior elements with 
postsurgical 
changes.  Minimal anterolisthesis of L4 on L5. 
3. Partial fusion of L1 and L2 vertebral bodies, which appears 
degenerative in etiology, with minimal retrolisthesis at L1-L2. 
4. No clear evidence for osteomyelitis, epidural collection, or 
prevertebral collection.  Evaluation for these abnormalities by 
CTs limited compared to MRI.  
5. Extensive multilevel degenerative disease, as detailed above, 
with moderate to severe spinal canal stenosis at L1-L2, and 
advanced multilevel neural foraminal narrowing. 
6. Partially visualized, at least 3.3 cm infrarenal abdominal 
aortic aneurysm. 
7. Partially visualized large bilateral renal cystic lesions. 
  
RECOMMENDATION(S): 
1. Dedicated CT abdomen/pelvis for better assessment of the 
abdominal aortic aneurysm. 
2. Renal ultrasound. 

 
Brief Hospital Course:
                      
________________________________________________________
 Urine Culture        STAPH AUREUS COAG +
                             |   
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
NITROFURANTOIN--------  <=16 S
OXACILLIN-------------   =>4 R
TETRACYCLINE----------  =>16 R
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------     1 S

# CAUTI
# Sepsis
# MRSA 
Patient with elevated WBC count, lactate and U/A concerning for
UTI, although will consider alternative source for infection as
patient always has WBC in urine.  His chronic indwelling Foley,
in process of being  evaluated for SPT. ___ exchanged in ED.   
            
- Vancomcyin for 10 days of treatment (Last day of Abx ___
- ___ NP will stop by to discuss possible Suprapubic 
catheter ___ visit rehab while patient stays) 
- Belladonna and opium suppositories for bladder spasm - During 
inpatient stay were somewhat helpful, will no continue after 
discharge. 

# Chronic Foley - Due to urinary retention. At this time does 
not take good care of his Foley outpatient. Would like more 
education on this to minimize infection. 

#Depression - continue Escitalopram
- Patient seen by psychiatry inpatient who noted patient's 
irritability may stem from his chronic illness, history of TBIs, 
etc... but suggest augmenting agent for escitalopram at this 
time. Buspirone 7.5mg BID to increase to 15mg BID to happen in 2 
days time after discharge. 
- Would like patient to get Psych ___, in-home psychotherapy, 
and complementary therapy for relaxation and pain relief (Reiki, 
meditation, etc...) 

# Weakness (Global) - Most likely due to CAUTI and chronic 
illness. Patient still able to ambulate, but fights with pain 
daily. Will continue home meds for pain and encourage patient to 
work well with ___ at rehab for improved quality of life when he 
leaves. 

#Acute Renal Failure - Resolved with (most likely due from 
dehydration)  

#APLS-On warfarin, INR currently therapeutic. Goal ___ INR

#BPH - Continue tamsulosin

#HTN - Amlodipine

#HLD - Continue statin

#Chronic pain - Continued gabapentin, oxycodone (did not use)

#Reflux -Continued omeprazole

At time of discharge patient has expected LOS <30 days
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Escitalopram Oxalate 20 mg PO QPM 
3. Gabapentin 300 mg PO QHS 
4. Omeprazole 20 mg PO DAILY 
5. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
6. Rosuvastatin Calcium 40 mg PO QPM 
7. Tamsulosin 0.4 mg PO QHS 
8. Warfarin 4 mg PO 5X/WEEK (___) 
9. Warfarin 3 mg PO 3X/WEEK (___) 
10. Ketoconazole Shampoo 1 Appl TP ASDIR 
11. nystatin 100,000 unit/gram topical BID 
12. Vitamin D ___ UNIT PO 1X/MONTH 
13. Docusate Sodium 100 mg PO BID 
14. Fiber Laxative (psyllium husk) (psyllium husk) 1 cap oral 
DAILY 
15. Lubrifresh ___ (white petrolatum-mineral oil) ___ strip 
ophthalmic (eye) QHS 
16. Artificial Tears ___ DROP BOTH EYES PRN dry eyes 

 
Discharge Medications:
1.  BusPIRone 7.5 mg PO BID 
Begin with 7.5 mg bid, if tolerated after 2 days can increase to 
15 mg bid  
2.  Carbamide Peroxide 6.5% ___ DROP BOTH EARS BID Duration: 4 
Days  
3.  Vancomycin 1000 mg IV Q 12H 
Continue until ___ ___ dose  
4.  amLODIPine 5 mg PO DAILY  
5.  Artificial Tears ___ DROP BOTH EYES PRN dry eyes  
6.  Docusate Sodium 100 mg PO BID  
7.  Escitalopram Oxalate 20 mg PO QPM  
8.  Fiber Laxative (psyllium husk) (psyllium husk) 1 cap oral 
DAILY  
9.  Gabapentin 300 mg PO QHS  
10.  Ketoconazole Shampoo 1 Appl TP ASDIR  
11.  Lubrifresh ___ (white petrolatum-mineral oil) ___ strip 
ophthalmic (eye) QHS  
12.  nystatin 100,000 unit/gram topical BID  
13.  Omeprazole 20 mg PO DAILY  
14.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 

  Reason for PRN duplicate override: Alternating agents for 
similar severity 
15.  Rosuvastatin Calcium 40 mg PO QPM  
16.  Tamsulosin 0.4 mg PO QHS  
17.  Vitamin D ___ UNIT PO 1X/MONTH  
18.  Warfarin 4 mg PO 5X/WEEK (___)  
19.  Warfarin 3 mg PO 3X/WEEK (___)  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Catheter Associated UTI
Weakness
Chronic Back pain and fusion of vertebrae
Acute kidney injury - resolved

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted following a fall at your assisted living 
facility and were found with a catheter associated UTI. It it is 
important to take care of your catheter and to change your bag 
in your foley often. it is also noted to us that you are 
suffering from very bad depression, and would benefit from 
continual treatment with medications but also In-home 
psychotherapy, and complementary therapy for relaxation such as 
reki.

You are being discharged to rehab to get stronger. At this time 
it is important to try to assess if you want to go to Long Term 
Care (nursing homes) after rehab. This may help your overall 
condition in terms of depression and quality of life, but it is 
your decision in the end.

Some things you should followup with your primary care is 
1) Get an Abdominal US to characterize an abdominal aneurysm 
completely
2) Get a renal US to characterize some cysts we think we saw in 
your kidneys (Usually are benign and quite common, but would 
like to see your kidneys more completely). 

Thanks for allowing us to continue to care for you.
- The Hospitalist team
 
Followup Instructions:
___